US04505913
In a manner analogous to that described in Example 1, the reaction of 5-(N-isopropylsulfamoyl)-isatoic anhydride with 1-methylpiperazine yields 5-(N-isopropylsulfamoyl)-anthranilic acid (4-methyl)-piperazide with a melting point of 118°-122° (from methylene chloride/diethyl ether; melting point of the methanesulfonate: 232°-234°).

reactant | 5-(N-isopropylsulfamoyl)-isatoic anhydride | C(C)(C)NS(=O)(=O)C1=CC=C2C(C(=O)OC(N2)=O)=C1 | C11H12N2O5S
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
solvent | methylene chloride diethyl ether | C(Cl)Cl.C(C)OCC
product | 5-(N-isopropylsulfamoyl)-anthranilic acid (4-methyl)-piperazide | CN1CCN(CC1)C(C=1C(N)=CC=C(C1)S(NC(C)C)(=O)=O)=O | C15H24N4O3S
